US04983619
(v) 2-Cyano-N-[5-(4-(1,1-dimethylethyl)phenyl)thien-2-yl]-3-hydroxybut-2-enamide
2-Cyano-N-[5-(4-fluorophenyl)thien-2-yl]-3-hydroxybut-2-enamide, m.p. 232°-234° C. (from 2-carboxy-5-(4-fluorophenyl)thiophene).

reactant | 2-Cyano-N-[5-(4-fluorophenyl)thien-2-yl]-3-hydroxybut-2-enamide | C(#N)C(C(=O)NC=1SC(=CC1)C1=CC=C(C=C1)F)=C(C)O | C15H11FN2O2S
reactant | 2-carboxy-5-(4-fluorophenyl)thiophene | C(=O)(O)C=1SC(=CC1)C1=CC=C(C=C1)F | C11H7FO2S
product | 2-Cyano-N-[5-(4-(1,1-dimethylethyl)phenyl)thien-2-yl]-3-hydroxybut-2-enamide | C(#N)C(C(=O)NC=1SC(=CC1)C1=CC=C(C=C1)C(C)(C)C)=C(C)O | C19H20N2O2S
